### PR TITLE
[Merged by Bors] - feat(RingTheory/LocalRing/ResidueField): a predicate for separable residue field extensions

### PR DESCRIPTION
**Pull request by xroblot**
This adds `Algebra.HasSeparableResidueFieldsAt A B p`, stating that the residue field extension `κ(P)/κ(p)` is separable for every prime `P` of `B` lying over a prime `p` of `A`, along with instances deducing it when `κ(p)` is perfect, when `A ⧸ p` is finite, and when `A` has finite quotients and `p` is nonzero.

See the [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Typeclass.20for.20separable.20residue.20fields/with/621304948) for the design.

Prepared with Claude Code 🤖

---

### CODE REVIEW

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+paid for once, there, rather than in the definition.
+-/
+
+@[expose] public section
+
+open Ideal
+
+namespace Algebra
+
+section
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Maybe name this section `Prime`?

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 2]
```diff
@@ -0,0 +1,134 @@
...
+variable [Algebra.IsIntegral A B]
+
+/-- If the residue field `κ(p)` is perfect, the residue field extensions above `p` are separable. -/
+instance [PerfectField p.ResidueField] : HasSeparableResidueFieldsAt A B p where
+  isSeparable' P _ _ :=
+    letI := Localization.AtPrime.algebraOfLiesOver p P
+    IsAlgebraic.isSeparable_of_perfectField
+
+/-- If the quotient `A ⧸ p` is finite, the residue field extensions above `p` are separable. -/
+instance [Finite (A ⧸ p)] : HasSeparableResidueFieldsAt A B p where
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: You should be able to deduce this directly from the previous instance, since we have
`instIsFractionRingQuotientIdealResidueField` and `IsLocalization.finite`?

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 3]
```diff
@@ -0,0 +1,134 @@
...
+  letI := Localization.AtPrime.algebraOfLiesOver p P
+  Algebra.isSeparable_residueField_iff.mp (HasSeparableResidueFieldsAt.isSeparable' P)
+
+end Maximal
+
+section Tower
+
+variable {A R B : Type*} [CommRing A] [CommRing R] [CommRing B]
+  [Algebra A R] [Algebra R B] [Algebra A B] [IsScalarTower A R B]
+  (p : Ideal A) (𝓟 : Ideal R) [p.IsPrime] [𝓟.IsPrime] [𝓟.LiesOver p]
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Personally, I would prefer `A`, `B`, `C`, and `p`, `q`, `r` to avoid three different `p`'s.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 4]
```diff
@@ -0,0 +1,134 @@
...
+
+/-- For a tower of rings `B/R/A` and a prime `𝓟` of `R` lying over `p`, separability of the
+residue field extensions of `B/A` above `p` gives separability of those of `B/R` above `𝓟`. -/
+theorem HasSeparableResidueFieldsAt.tower_top [HasSeparableResidueFieldsAt A B p] :
+    HasSeparableResidueFieldsAt R B 𝓟 where
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Can you also prove `tower_bot`?

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 5]
```diff
@@ -0,0 +1,134 @@
...
+since the quotients are fields only when the primes are maximal, in which case they are canonically
+isomorphic to the residue fields. This is why
+`Algebra.HasSeparableResidueFieldsAt.isSeparable_quotient` assumes that `p` and `P` are maximal,
+whereas the definition itself works at an arbitrary prime.
+
+The field `Algebra.HasSeparableResidueFieldsAt.isSeparable'` fixes one algebra structure on the
+localizations, namely `Localization.AtPrime.algebraOfLiesOver`, so that proving the predicate
+involves a single choice. The instance `Algebra.HasSeparableResidueFieldsAt.isSeparable`, which is
+the one consumers use, then generalises it to an arbitrary compatible structure; the genericity is
+paid for once, there, rather than in the definition.
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: This smells a bit AI-written, especially the last sentence.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Indeed. I remove the instance

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: I added it. It needs stronger hypotheses

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Yeah, sorry about that. Usually I read and modify the prose written by Claude but I forgot to do it there. It should be better now hopefully.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 6]
```diff
@@ -0,0 +1,137 @@
...
+module
+
+public import Mathlib.RingTheory.Ideal.Quotient.HasFiniteQuotients.Basic
+public import Mathlib.RingTheory.LocalRing.ResidueField.Instances
+
+/-!
+# Separable residue field extensions
+
+For a prime `p` of `A`, we introduce a predicate stating that the residue field extensions
+`κ(P)/κ(p)` are separable for every prime `P` of `B` lying over `p`.
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
`κ(q)/κ(p)` are separable for every prime `q` of `B` lying over `p`.
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 7]
```diff
@@ -0,0 +1,137 @@
...
+
+## Main definitions
+
+* `Algebra.HasSeparableResidueFieldsAt A B p`: the residue field extension `κ(P)/κ(p)` is
+  separable for every prime `P` of `B` lying over `p`.
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
* `Algebra.HasSeparableResidueFieldsAt A B p`: the residue field extension `κ(q)/κ(p)` is
  separable for every prime `q` of `B` lying over `p`.
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 8]
```diff
@@ -0,0 +1,137 @@
...
+  perfect, and when `A` has finite quotients and `p` is nonzero;
+* `Algebra.HasSeparableResidueFieldsAt.isSeparable_quotient`: at a maximal prime, the predicate
+  also gives the separability of the extensions of quotient rings;
+* `Algebra.HasSeparableResidueFieldsAt.tower_top` and
+  `Algebra.HasSeparableResidueFieldsAt.tower_bot`: the predicate passes to an intermediate ring.
+
+## Implementation notes
+
+The condition is on the residue fields rather than on the quotient rings `(B ⧸ P)/(A ⧸ p)` so that
+it makes sense at any prime: the quotients are fields only at maximal primes.
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
The condition is on the residue fields rather than on the quotient rings `(B ⧸ q)/(A ⧸ p)` so that
it makes sense at any prime: the quotients are fields only at maximal primes.
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 9]
```diff
@@ -0,0 +1,137 @@
...
+
+The algebra structure on `κ(P)` over `κ(p)` in the predicate is the one induced by the algebra
+structure on `Localization.AtPrime P` over `Localization.AtPrime p` given by
+`Localization.AtPrime.algebraOfLiesOver`. Any other structure making `Localization.AtPrime P` an
+algebra over `Localization.AtPrime p` in a compatible way with the action of `A` is equal to that
+one, see `Localization.AtPrime.algebraMap_eq`.
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
The algebra structure on `κ(q)` over `κ(p)` in the predicate is the one induced by the algebra
structure on `Localization.AtPrime q` over `Localization.AtPrime p` given by
`Localization.AtPrime.algebraOfLiesOver`. Any other structure making `Localization.AtPrime q` an
algebra over `Localization.AtPrime p` in a compatible way with the action of `A` is equal to that
one, see `Localization.AtPrime.algebraMap_eq`.
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 10]
```diff
@@ -0,0 +1,137 @@
...
+section Prime
+
+variable (A B : Type*) [CommRing A] [CommRing B] [Algebra A B] (p : Ideal A) [p.IsPrime]
+
+/-- `Algebra.HasSeparableResidueFieldsAt A B p` states that for every prime `P` of `B` lying over
+`p`, the residue field extension `κ(P)/κ(p)` is separable. -/
+class HasSeparableResidueFieldsAt : Prop where
+  isSeparable' (P : Ideal B) [P.IsPrime] [P.LiesOver p] :
+    letI := Localization.AtPrime.algebraOfLiesOver p P
+    Algebra.IsSeparable p.ResidueField P.ResidueField
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
/-- `Algebra.HasSeparableResidueFieldsAt A B p` states that for every prime `q` of `B` lying over
`p`, the residue field extension `κ(q)/κ(p)` is separable. -/
class HasSeparableResidueFieldsAt : Prop where
  isSeparable' (q : Ideal B) [q.IsPrime] [q.LiesOver p] :
    letI := Localization.AtPrime.algebraOfLiesOver p q
    Algebra.IsSeparable p.ResidueField q.ResidueField
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 11]
```diff
@@ -0,0 +1,137 @@
...
+/-- `Algebra.HasSeparableResidueFieldsAt` gives the separability for any compatible choice of the
+algebra structure on the localizations. -/
+instance HasSeparableResidueFieldsAt.isSeparable (P : Ideal B) [P.IsPrime] [P.LiesOver p]
+    [HasSeparableResidueFieldsAt A B p]
+    [alg : Algebra (Localization.AtPrime p) (Localization.AtPrime P)]
+    [IsScalarTower A (Localization.AtPrime p) (Localization.AtPrime P)] :
+    Algebra.IsSeparable p.ResidueField P.ResidueField :=
+  have : alg = Localization.AtPrime.algebraOfLiesOver p P :=
+    Algebra.algebra_ext _ _ fun _ ↦ by rw [Localization.AtPrime.algebraMap_eq]; rfl
+  this ▸ HasSeparableResidueFieldsAt.isSeparable' P
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
instance HasSeparableResidueFieldsAt.isSeparable (q : Ideal B) [P.IsPrime] [q.LiesOver p]
    [HasSeparableResidueFieldsAt A B p]
    [alg : Algebra (Localization.AtPrime p) (Localization.AtPrime q)]
    [IsScalarTower A (Localization.AtPrime p) (Localization.AtPrime q)] :
    Algebra.IsSeparable p.ResidueField q.ResidueField :=
  have : alg = Localization.AtPrime.algebraOfLiesOver p q :=
    Algebra.algebra_ext _ _ fun _ ↦ by rw [Localization.AtPrime.algebraMap_eq]; rfl
  this ▸ HasSeparableResidueFieldsAt.isSeparable' q
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 12]
```diff
@@ -0,0 +1,137 @@
...
+
+variable [Algebra.IsIntegral A B]
+
+/-- If the residue field `κ(p)` is perfect, the residue field extensions above `p` are separable. -/
+instance [PerfectField p.ResidueField] : HasSeparableResidueFieldsAt A B p where
+  isSeparable' P _ _ :=
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
  isSeparable' q _ _ :=
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 13]
```diff
@@ -0,0 +1,137 @@
...
+    letI := Localization.AtPrime.algebraOfLiesOver p P
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
    letI := Localization.AtPrime.algebraOfLiesOver p q
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 14]
```diff
@@ -0,0 +1,137 @@
...
+    IsAlgebraic.isSeparable_of_perfectField
+
+/-- If `A` has finite quotients, the residue field extensions above a nonzero prime of `A` are
+separable. -/
+instance [NeZero p] [Ring.HasFiniteQuotients A] : HasSeparableResidueFieldsAt A B p :=
+  haveI : Finite (A ⧸ p) := Ring.HasFiniteQuotients.finiteQuotient (NeZero.ne p)
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: I think `have` is fine since it's `Prop`-valued?

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 15]
```diff
@@ -0,0 +1,137 @@
...
+
+/-- At a maximal prime `p`, `Algebra.HasSeparableResidueFieldsAt` also gives the separability of
+the extension of quotient rings `(B ⧸ P)/(A ⧸ p)` for every maximal ideal `P` of `B` lying over
+`p`. Maximality is needed for the quotient rings to be fields; they are then canonically
+isomorphic to the residue fields. -/
+instance HasSeparableResidueFieldsAt.isSeparable_quotient [HasSeparableResidueFieldsAt A B p]
+    (P : Ideal B) [P.IsMaximal] [P.LiesOver p] :
+    Algebra.IsSeparable (A ⧸ p) (B ⧸ P) :=
+  letI := Localization.AtPrime.algebraOfLiesOver p P
+  Algebra.isSeparable_residueField_iff.mp (HasSeparableResidueFieldsAt.isSeparable' P)
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
    (q : Ideal B) [q.IsMaximal] [q.LiesOver p] :
    Algebra.IsSeparable (A ⧸ p) (B ⧸ q) :=
  letI := Localization.AtPrime.algebraOfLiesOver p q
  Algebra.isSeparable_residueField_iff.mp (HasSeparableResidueFieldsAt.isSeparable' q)
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 16]
```diff
@@ -0,0 +1,137 @@
...
+  inferInstance
+
+end Prime
+
+section Maximal
+
+variable {A B : Type*} [CommRing A] [CommRing B] [Algebra A B] (p : Ideal A) [p.IsMaximal]
+
+/-- At a maximal prime `p`, `Algebra.HasSeparableResidueFieldsAt` also gives the separability of
+the extension of quotient rings `(B ⧸ P)/(A ⧸ p)` for every maximal ideal `P` of `B` lying over
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
/-- At a maximal prime `p`, `Algebra.HasSeparableResidueFieldsAt` also gives the separability of
the extension of quotient rings `(B ⧸ q)/(A ⧸ p)` for every maximal ideal `q` of `B` lying over
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 6 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Yes, sorry. I should have changed everywhere.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 14 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Indeed, I changed it here and also a few lines below in a similar case.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 17]
```diff
@@ -0,0 +1,137 @@
...
+variable {A B p} in
+/-- `Algebra.HasSeparableResidueFieldsAt` gives the separability for any compatible choice of the
+algebra structure on the localizations. -/
+instance HasSeparableResidueFieldsAt.isSeparable (q : Ideal B) [q.IsPrime] [q.LiesOver p]
+    [HasSeparableResidueFieldsAt A B p]
+    [alg : Algebra (Localization.AtPrime p) (Localization.AtPrime q)]
+    [IsScalarTower A (Localization.AtPrime p) (Localization.AtPrime q)] :
+    Algebra.IsSeparable p.ResidueField q.ResidueField :=
+  have : alg = Localization.AtPrime.algebraOfLiesOver p q :=
+    Algebra.algebra_ext _ _ fun _ ↦ by rw [Localization.AtPrime.algebraMap_eq]; rfl
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
    Algebra.algebra_ext _ _ <| RingHom.ext_iff.mp (Localization.AtPrime.algebraMap_eq p q)
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 18]
```diff
@@ -0,0 +1,137 @@
...
+/-- If the residue field `κ(p)` is perfect, the residue field extensions above `p` are separable. -/
+instance [PerfectField p.ResidueField] : HasSeparableResidueFieldsAt A B p where
+  isSeparable' q _ _ :=
+    letI := Localization.AtPrime.algebraOfLiesOver p q
+    IsAlgebraic.isSeparable_of_perfectField
+
+/-- If `A` has finite quotients, the residue field extensions above a nonzero prime of `A` are
+separable. -/
+instance [NeZero p] [Ring.HasFiniteQuotients A] : HasSeparableResidueFieldsAt A B p :=
+  have : Finite (A ⧸ p) := Ring.HasFiniteQuotients.finiteQuotient (NeZero.ne p)
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]:
```suggestion
```

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean [hunk 19]
```diff
@@ -0,0 +1,137 @@
...
+  have : alg = Localization.AtPrime.algebraOfLiesOver p q :=
+    Algebra.algebra_ext _ _ fun _ ↦ by rw [Localization.AtPrime.algebraMap_eq]; rfl
+  this ▸ HasSeparableResidueFieldsAt.isSeparable' q
+
+variable [Algebra.IsIntegral A B]
+
+/-- If the residue field `κ(p)` is perfect, the residue field extensions above `p` are separable. -/
+instance [PerfectField p.ResidueField] : HasSeparableResidueFieldsAt A B p where
+  isSeparable' q _ _ :=
+    letI := Localization.AtPrime.algebraOfLiesOver p q
```
Comment (tb65536) [inline Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: This is prop-valued, so `let` is fine:
```suggestion
    let := Localization.AtPrime.algebraOfLiesOver p q
```

Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Good point. I changed it here and elsewhere.

File: Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean (hunk 18 above)
Comment (xroblot) [reply Mathlib/RingTheory/LocalRing/ResidueField/Separable.lean]: Indeed, with the new instance for `Ring.HasFiniteQuotients` this is not needed and in fact the instance is not needed at all!

So I removed it and fixed the imports. I added a word about rings with finite quotients in the module docstring, in case people look for the result.

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
